US09163042B2
A solution of 4-chloro-2-fluoro-benzoic acid (7.0 g, 40.10 mmol), HATU (15.25 g, 40.10 mmol), 2-methoxypyridin-4-amine (4.98 g, 40.10 mmol) and Et3N (22.4 mL, 160.4 mmol) in dichloromethane (63.0 mL) was stirred at room temperature overnight. The crude mixture was purified by column chromatography eluting with a gradient of ethyl acetate in hexanes (0-50%) to yield 4-chloro-2-fluoro-N-(2-methoxy-4-pyridyl)benzamide (4.35 g, 39%), as a white solid. ESI-MS m/z calc. 280.04, found 281.3 (M+1)+; Retention time: 1.31 minutes (3 minutes run). 1H NMR (400 MHz, DMSO-d6) δ 10.80 (s, 1H), 8.09 (m, 1H), 7.73 (t, J=8.0 Hz, 1H), 7.66 (dd, J=10.1, 1.9 Hz, 1H), 7.46 (dd, J=8.3, 1.9 Hz, 1H), 7.21 (m, 2H), 3.84 (s, 3H) ppm.

reactant | 4-chloro-2-fluoro-benzoic acid | 40.10 mmol, 7.0 g | ClC1=CC(=C(C(=O)O)C=C1)F | C7H4ClFO2
reactant | HATU | 40.10 mmol, 15.25 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-methoxypyridin-4-amine | 40.10 mmol, 4.98 g | COC1=NC=CC(=C1)N | C6H8N2O
reactant | Et3N | 160.4 mmol, 22.4 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 63.0 mL | ClCCl | CH2Cl2
product | 4-chloro-2-fluoro-N-(2-methoxy-4-pyridyl)benzamide | 4.35 g, 39% | ClC1=CC(=C(C(=O)NC2=CC(=NC=C2)OC)C=C1)F | C13H10ClFN2O2
